data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH:21].[B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[O:10]C(C(C)C=C)C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C.[Na+]>>[H:20][O+:10]([B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O)C(C(C)C=C)C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C.[OH-:21].[Na+] 10=20;20,21=21
[H:20][Cl:21].C1CN(C(CC12OCC[O:10]2)CC3=CC=CC=C3)C(=O)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.CCO.O>>[H:20][O+:10]1CCOC12CCN(C(C2)CC3=CC=CC=C3)C(=O)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.[Cl-:21].CCO.O 10=20;20,21=21
CCCCO[Ti-:10]([OH+:11]C(CC(=CC(=O)OC)C)C=CC=CI)(OCCCC)(OCCCC)OCCCC.CCCCO[Si](C)(C)C.[OH-]>>CCCCO[Ti:10](OCCCC)(OCCCC)OCCCC.CC(=CC(=O)OC)CC(C=CC=CI)[OH:11].CCCCO[Si](C)(C)C.[OH-] 10,11=11
[H:20][OH+:21]C(C1=C(N=CS1)Cl)OCCO.[OH2:10].C1CCOC1.C1COCCO1.[Cl-]>>[H:20][OH2+:10].C1=NC(=C(S1)C([OH:21])OCCO)Cl.C1CCOC1.C1COCCO1.[Cl-] 10=20;20,21=21
CN(C)[C:11]1=[CH:10]C=C(C=C1)Br.[Br:20][Br:21]>>CN(C)[C+:11]1C=CC(=C[CH:10]1[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)S(=O)(=O)O.[Br:20][Br:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[Br:20])S(=O)(=O)O.[Br-:21] 10,11=10,20;20,21=21
[H:20][O+:21](CC)C(CCO[Si](C)(C)C)(O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CCO[Si](C)(C)C)(O)O 10=20;20,21=21
CCCCCCN1CCC23C=C([CH:10](CC2C1CC4=C3C(=C(C=C4)OC)O)[OH+:11]C)O>>CCCCCCN1CCC23C=C([CH+:10]CC2C1CC4=C3C(=C(C=C4)OC)O)O.C[OH:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.CCNC(CCC=O)([O-:10])OC(=O)C>>[H:20][O:10]C(CCC=O)(NCC)OC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C+:20]=O.CO[C:13]1=[CH:12][CH:11]=[CH:10]C(=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH:11]=[CH:12][C+:13](C=C1[N+](=O)[O-])OC 10,11=10,20;12,13=11,12
C[CH:20]([F:10])[F:21]>>C[CH:20]=[F+:10].[F-:21] 10=20;20,21=21
C[P:10](C)C.[Cl:20][Cl:21]>>C[P+:10](C)(C)[Cl:20].[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.CP(=[O:10])(C)C>>[H:20][O+:10]=P(C)(C)C.CS(=O)(=O)[O-:21] 10=20;20,21=21
CC(=O)O[C:20](C)([OH:10])[Cl:21]>>C[C:20](=[OH+:10])OC(=O)C.[Cl-:21] 10=20;20,21=21
CC1(OC2[CH+:22][CH:21]=[CH:20]C(C2O1)OCC3=C(C4=C([CH:11]=[CH:10]3)OCO4)Br)C>>CC1(OC2[CH:22]=[CH:21][CH:20]3[CH:10]4[CH+:11]C5=C(C(=C4COC3C2O1)Br)OCO5)C 10,11=10,20;20,21=21,22
C1C[O:21][C:20](C=C1)(O)[O-:10].[K+]>>C(C[O-:21])C=C[C:20](=[O:10])O.[K+] 10=20;20,21=21
CCOC(=O)[N-:10][N:20](C(=O)OCC)[P+:21](CC)(CC)CC>>CCOC(=O)[N:10]=[N:20]C(=O)OCC.CC[P:21](CC)CC 10=20;20,21=21
CC(=O)[O:11][Si-:10](C)(C)(C)N(C)C>>CC(=O)[O-:11].CN(C)[Si:10](C)(C)C 10,11=11
CC(=O)O[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C>>CC(=O)O[Si:10](C)(C)C.CS(=O)(=O)[O-:11] 10,11=11
C[C:10](=[C:11](C)[O-:12])C.C1=CC=C(C=C1)[CH2:20][Br:21]>>C[C:11](=[O:12])[C:10](C)(C)[CH2:20]C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21;12=11
CC(C)C(=[O:10])C(C)C.CC(C)[Mg:20]Cl>>CC(C)C(=[O+:10][Mg-:20](C(C)C)Cl)C(C)C 10=20,
CCOC(=O)[CH:10]=[C:11](CC1=CC(=O)OC(O1)(C)C)[O-:12].C1=CC=C(C=C1)CC[C:20](=[O:21])Cl.C1=CC=[NH+]C=C1>>CCOC(=O)[CH:10]([C:11](=[O:12])CC1=CC(=O)OC(O1)(C)C)[C:20](CCC2=CC=CC=C2)([O-:21])Cl.C1=CC=[NH+]C=C1 10,11=10,20;20,21=21;12=11
C[Si](C)(C)C[CH:11]=[CH2:10].C=CC[N+:21]1=[CH:20]CCC2(C1=O)CC3=C(C2=O)C=CC=C3>>C[Si](C)(C)C[CH+:11][CH2:10][CH:20]1CCC2(CC3=C(C2=O)C=CC=C3)C(=O)[N:21]1CC=C 10,11=10,20;20,21=21
CC1CC(C23CCC[N:10]4C2(CCC4)C(=O)CC3C1O)O.C1=CC(=CC(=C1)[C:22](=[OH+:23])[O:21][O-:20])Cl>>CC1CC(C23CCC[N+:10]4(C2(CCC4)C(=O)CC3C1O)[O-:20])O.C1=CC(=CC(=C1)[C:22](=[O:21])[OH:23])Cl 10=20;22,23=23;20,21=21,22
[H:20][Br:21].C1=CC(=C(C=C1)[NH:12][N:11]=[O:10])CC=CCO>>[H:20][O:10][N:11]=[NH+:12]C1=C(C=CC=C1)CC=CCO.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C1CCC2(C(C1)CCC3C2CCC4(C3CCC4C(=O)CCCC)C)C.C1CC(=O)[N-:10]C1=O.CCCC[P+](CCCC)(CCCC)SC1=CC=C(C=C1)Cl>>[H:20][N:10]1C(=O)CCC1=O.CCCCC(=O)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)[O-:21])C)C.CCCC[P+](CCCC)(CCCC)SC1=CC=C(C=C1)Cl 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=CC=C(C=C2)F)C3=CC=C(C=C3)S(=O)(=O)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C[C:22]1=[CH:21]C=C([N:23]1C2=CC=C(C=C2)F)C3=CC=C(C=C3)S(=O)(=O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C1C(CN(C1C(=[O:10])O)C(=O)OCC2=CC=CC=C2)O.CO>>[H:20][O+:10]=C(C1CC(CN1C(=O)OCC2=CC=CC=C2)O)O.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
C[O:10]C1=CC=CC2=C1N(C3=C2C=CC=C3)C([CH2:20][O:21]S(=O)(=O)C)C4=CC=CC=C4.[Na+].[I-]>>C[O+:10]1[CH2:20]C(N2C3=C(C=CC=C3)C4=C2C1=CC=C4)C5=CC=CC=C5.CS(=O)(=O)[O-:21].[Na+].[I-] 10=20;20,21=21
[Li][O+:21]=[CH:20][CH2-:10]>>[Li][O:21][CH:20]=[CH2:10] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC(C)(C)OC(=[O:10])NCCN1C(=CC(=N1)C2=CC=CC=C2)C(=O)CC3CCCCC3>>[H:20][O+:10]=C(NCCN1C(=CC(=N1)C2=CC=CC=C2)C(=O)CC3CCCCC3)OC(C)(C)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C[Si-:10](C)(C)(OC1=C2C(=O)CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3)[O:11]S(=O)(=O)C(F)(F)F.CC1=[NH+]C(=CC=C1)C>>C[Si:10](C)(C)OC1=C2C(=O)CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3.C(F)(F)(F)S(=O)(=O)[O-:11].CC1=[NH+]C(=CC=C1)C 10,11=11
CC[O-:10].C[P+:20](C)(C)Cl>>CC[O:10][P:20](C)(C)(C)Cl 10=20,
CCN[C:20](C=C)([O-:10])[O:21]C(=O)C>>CCN[C:20](=[O:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
